US04550169
A 12.2 g portion of 2-methylthioimidazoline, hydroiodide was dissolved in 30 ml of ethanol. A 5.32 ml portion of methyl hydrazine was added dropwise over 1/2 hour. This mixture was refluxed overnight, then chilled in an ice bath. The solvent was evaporated and the residue triturated with ether and refrigerated overnight. The mxture was evaporated to an oil which was dissolved in methanol and added to 400 ml of ether. The resulting solid was collected, dissolved in hot methanol and poured into 100 ml of ether. The resulting solid was collected, giving 4,5-dihydro-2-(2-methylhydrazino)-1H-imidazole, hydroiodide.

reactant | 2-methylthioimidazoline, hydroiodide | I.CSC=1NCCN1
reactant | methyl hydrazine | CNN | CH6N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4,5-dihydro-2-(2-methylhydrazino)-1H-imidazole, hydroiodide | I.CNNC=1NCCN1 | InChI=1S/C4H10N4.HI/c1-5-8-4-6-2-3-7-4;/h5H,2-3H2,1H3,(H2,6,7,8);1H
